US05811459
N-(4-Nitrophenylsulphonyl)-4-[3-(2-benzyloxyphenyl),propyl]benzamide
A mixture of 4-[3-(2-benzyloxyphenyl)propyl)benzoic acid 0.2 g), 4-nitrobenzenesulphonamide (0.12 g), DMAP (0.15 g) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.12 g) was stirred for 65 hours. The mixture was diluted with EtOAc, washed with water and brine, dried (MgSO4), filtered and evaporated. The residue was purified by flash chromatography on silica gel, eluting with ethyl acetate, to give the title compound (0.21 g) mpt. 112°-113° C.

reactant | 4-[3-(2-benzyloxyphenyl)propyl)benzoic acid | 0.2 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CCCC1=CC=C(C(=O)O)C=C1 | C23H22O3
reactant | 4-nitrobenzenesulphonamide | 0.12 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N | C6H6N2O4S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.12 g | Cl.CN(CCCN=C=NCC)C
catalyst | DMAP | 0.15 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(4-Nitrophenylsulphonyl)-4-[3-(2-benzyloxyphenyl),propyl]benzamide | 0.21 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)NC(C1=CC=C(C=C1)CCCC1=C(C=CC=C1)OCC1=CC=CC=C1)=O | C29H26N2O6S
